US07939672B2
After the 5-bromo-2-(4-bromophenyl)-2-isopropylpentanoic acid methyl ester (1 g, 1 eq) was dissolved in ethanol, [3-(1H-benzimidazole-2-yl)propyl]methylamine (0.66 g, 1 eq) as a benzimidazole derivative, and potassium carbonate (0.58 g, 1.2 eq) were added into the solution and heated and refluxed for 3 hours. When the reaction was completed, the precipitate was filtrated and the solvent was removed at low pressures. The target compound 5-{[3-(1H-benzimidazole-2-yl)propyl]methylamino}-2-(4-bromophenyl)-2-isopropyl pentanoic acid methyl ester was obtained by separation and purification of the mixture using a column chromatography (ethyl acetate:methanol=10:1) (635 mg, 36%).

reactant | 5-bromo-2-(4-bromophenyl)-2-isopropylpentanoic acid methyl ester | 1 g, 1 eq | COC(C(CCCBr)(C(C)C)C1=CC=C(C=C1)Br)=O | C15H20Br2O2
reactant | [3-(1H-benzimidazole-2-yl)propyl]methylamine | 0.66 g, 1 eq | N1C(=NC2=C1C=CC=C2)CCCNC | C11H15N3
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | potassium carbonate | 0.58 g, 1.2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 5-{[3-(1H-benzimidazole-2-yl)propyl]methylamino}-2-(4-bromophenyl)-2-isopropyl pentanoic acid methyl ester | COC(C(CCCN(C)CCCC1=NC2=C(N1)C=CC=C2)(C(C)C)C2=CC=C(C=C2)Br)=O | C26H34BrN3O2
